US05482971
One equivalent of 5-(3-chlorophenyl)-3-(2-(3,4-dihydroxyphenyl)-1-methylethyl)-2-oxazolidinone, prepared by the procedure of U.S. Pat. No. 5,061,727, Example 1, is combined with 1.1 equivalents of 3,3-dibromo-2,4-pentanedione and 2.2 equivalents of powdered potassium carbonate in acetonitrile. The reaction mixture is stirred at room temperature for 48 hours, evaporated in vacuo and partitioned between methylene chloride and water. The organic layer is dried, filtered and evaporated in vacuo to give 5-(2-((2-(3-chlorophenyl)-2-hydroxyethyl)amino)propyl)-2,2-diacetyl-1,3-benzodioxole.

reactant | 5-(3-chlorophenyl)-3-(2-(3,4-dihydroxyphenyl)-1-methylethyl)-2-oxazolidinone | One equivalent | ClC=1C=C(C=CC1)C1CN(C(O1)=O)C(CC1=CC(=C(C=C1)O)O)C | C18H18ClNO4
reactant | 3,3-dibromo-2,4-pentanedione | 1.1 equivalents | BrC(C(C)=O)(C(C)=O)Br | C5H6Br2O2
reactant | potassium carbonate | 2.2 equivalents | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-(2-((2-(3-chlorophenyl)-2-hydroxyethyl)amino)propyl)-2,2-diacetyl-1,3-benzodioxole | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(C)=O)C(C)=O)C=C1)C)O | C22H24ClNO5
